US08071625B2
To a solution of (S)-pyrrolidin-2-ylmethanol (110 mg, 1.1 mmol) in THF (2.0 mL) was added 2-chlorobenzyl-isocyanate (167 mg, 1.0 mmol). The reaction mixture was stirred for 1 h and concentrated under reduced pressure to give (S)—N-(2-chlorobenzyl)-2-(hydroxymethyl)pyrrolidine-1-carboxamide as an oil (277 mg), which was used without further purification. LRMS (M+H+) m/z 269.0.

reactant | (S)-pyrrolidin-2-ylmethanol | 1.1 mmol, 110 mg | N1[C@@H](CCC1)CO | C5H11NO
reactant | 2-chlorobenzyl-isocyanate | 1.0 mmol, 167 mg | ClC1=C(CN=C=O)C=CC=C1 | C8H6ClNO
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | (S)—N-(2-chlorobenzyl)-2-(hydroxymethyl)pyrrolidine-1-carboxamide | 277 mg | ClC1=C(CNC(=O)N2[C@@H](CCC2)CO)C=CC=C1 | C13H17ClN2O2
